US06514968B1
Preparation 5 9-Benzyl-8-chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one
8-Chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.2019 g, 0.92 mmol) is added to a slurry of pentane-washed NaH (0.0275 g, 0.68 mmol) in DMF (1 mL) and after stirring 22 min benzyl bromide (0.13 mL, 0.0011 mol) is added. Starting material remained after 30 min, so additional NaH (0.0140 g, 0.35 mmol) and DMF (1 mL) are added and the mixture is allowed to stir overnight. The mixture is then partitioned between aq. sodium bicarbonate and ethyl acetate and the organic layer is dried over sodium sulfate and concentrated to dryness. The resulting solids are recrystallized from 30% ethyl acetate/hexane and dichloromethane to give 0.1942 g (68%) of the title compound; mp 161-162° C.; MS (ESI+) for C19H16ClNO m/z 310.1 (M+H)+; IR (drift) 1644, 1605, 1538, 1484, 1462, 1447, 1425, 1357, 1188, 1106, 793, 784, 737, 725, 699 cm−1; 1H NMR (CDCl3) δ2.22, 2.59, 2.85, 5.82, 6.95, 7.18, 7.28, 8.28. Anal. Calcd for C19H16ClNO: C, 73.66; H, 5.20; N, 4.52. Found: C, 73.41; H, 5.17; N, 4.57.

reactant | 8-Chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.92 mmol, 0.2019 g | ClC=1C=CC=C2C=3C(CCCC3NC12)=O | C12H10ClNO
reactant | pentane | CCCCC | C5H12
reactant | NaH | 0.68 mmol, 0.0275 g | [H-].[Na+]
reactant | benzyl bromide | 0.0011 mol, 0.13 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 0.35 mmol, 0.0140 g | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 9-Benzyl-8-chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.1942 g, 68% | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(CCCC12)=O)Cl | C19H16ClNO
